US06664271B1
1-(2-thiopheneacetyl)-3-piperidine carboxylic acid (1.3 g; 5.1 mmol) was dissolved in dry dichloromethane (35 ml) under a nitrogen atmosphere. Thionyl chloride (3 ml. 41.3 mmol) was added and the mixture was heated to reflux for approximately 1 hour. It was then cooled to ambient temperature and evaporated under reduced pressure, giving 1-(2-thiopheneacetyl)-3-piperidinecarbonyl chloride as a brownish oil. MS m/z (positive ion; run in CH3CN) 274 ([M+2]H+; 50), 272 (MH+; 100).

reactant | 1-(2-thiopheneacetyl)-3-piperidine carboxylic acid | 5.1 mmol, 1.3 g | S1C(=CC=C1)CC(=O)N1CC(CCC1)C(=O)O | C12H15NO3S
reactant | Thionyl chloride | 41.3 mmol, 3 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
product | 1-(2-thiopheneacetyl)-3-piperidinecarbonyl chloride | S1C(=CC=C1)CC(=O)N1CC(CCC1)C(=O)Cl | C12H14ClNO2S
